US04053588
c. L-Pyroglutamyl-4-aminobutyric acid amide
3.9 g (12.65 mmols) of L-pyroglutamic acid 2,4,5-trichlorophenyl ester were added to a solution of 1.76 g (12.9 mmols) 4-amino butyric acid amide and 1.72 g (12.75 mmols) of 1-hydroxybenzotriazole and 1.65 ml of N-ethylmorpholine in 40 ml of dimethyl formamide. The solution was allowed to stand for 1 hour at room temperature. It was concentrated and triturated with ether. The substance was suction-filtered and chromatographed in methanol/water (1:1) through Serdolit Blau. The eluate was concentrated and the residue was triturated with ether and suction-filtered.

reactant | L-pyroglutamic acid 2,4,5-trichlorophenyl ester | 12.65 mmols, 3.9 g | ClC1=C(C=C(C(=C1)Cl)Cl)OC([C@H]1NC(CC1)=O)=O | C11H8Cl3NO3
reactant | 4-amino butyric acid amide | 12.9 mmols, 1.76 g | NCCCC(=O)N | C4H10N2O
reactant | 1-hydroxybenzotriazole | 12.75 mmols, 1.72 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 1.65 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | L-Pyroglutamyl-4-aminobutyric acid amide | N1[C@@H](CCC1=O)C(=O)C(C(=O)N)CCN | C9H15N3O3
